US08865744B1
To a solution of 149 g (0.785 mol) of 2-acetylsulfanyl-2-methyl-propionic acid ethyl ester in EtOH (1.2 L, degassed under nitrogen for 1 h) are added 169.7 g (0.105 mol) of sodium methoxide, followed by a solution of 150 g (0.785 mol) of 4-bromo-1,1,1-trifluoro-butane. The reaction is heated to 85° C. for 3 d. The solvent is removed under reduced pressure. The residue is dissolved in DCM (1 L) and washed with saturated aq. NaHCO3 solution (2×1 L). The organic layer is dried over Na2SO4, filtered and the filtrate is concentrated under reduced pressure to afford 171 g of 2-methyl-2-(4,4,4-trifluoro-butylsulfanyl)-propionic acid ethyl ester. Yield: 84%; ESI-MS: 259 [M+H]+

reactant | 2-acetylsulfanyl-2-methyl-propionic acid ethyl ester | 0.785 mol, 149 g | C(C)OC(C(C)(C)SC(C)=O)=O | C8H14O3S
reactant | sodium methoxide | 0.105 mol, 169.7 g | C[O-].[Na+]
reactant | 4-bromo-1,1,1-trifluoro-butane | 0.785 mol, 150 g | BrCCCC(F)(F)F | C4H6BrF3
solvent | EtOH | 1.2 L | CCO | C2H6O
product | 2-methyl-2-(4,4,4-trifluoro-butylsulfanyl)-propionic acid ethyl ester | 171 g, Yield: 84% | C(C)OC(C(C)(SCCCC(F)(F)F)C)=O | C10H17F3O2S
